US06916933B2
A solution of 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester (210 mg, 0.50 mmol) in 4 N HCl in dioxane (10 mL) was stirred for 1 hr and was concentrated to give 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (140 mg) as a white powder. LR(+)LSIMS: m/z 641 (2M+H), 321 (M+H).

reactant | 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | 0.50 mmol, 210 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)C)=O)=O | C21H25ClN2O5
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 140 mg | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)C)=O)=O | C16H17ClN2O3
